US07410966B2
6-Bromo-2-[4-(2-morpholin-4-ylethoxy)phenyl]-3H-imidazo[4,5-b]pyridine
A solution of 6-bromo-2-[4-(2-chloroethoxy)phenyl]-3H-imidazo[4,5-b]pyridine (50 mg, 0.14 mmol), morpholine (0.037 ml, 0.42 mmol) in NMP (5 ml) and N-ethyldiisopropylamine (0.24 ml, 1.4 mmol) was heated at 120° C. for 6 h. Column chromatography on silica using methylene chloride/methanol/ammonia as eluent afforded the title compound.

reactant | 6-bromo-2-[4-(2-chloroethoxy)phenyl]-3H-imidazo[4,5-b]pyridine | 0.14 mmol, 50 mg | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCCCl | C14H11BrClN3O
reactant | morpholine | 0.42 mmol, 0.037 ml | N1CCOCC1 | C4H9NO
reactant | N-ethyldiisopropylamine | 1.4 mmol, 0.24 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
solvent | methylene chloride methanol ammonia | C(Cl)Cl.CO.N
product | 6-Bromo-2-[4-(2-morpholin-4-ylethoxy)phenyl]-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)NC(=N2)C2=CC=C(C=C2)OCCN2CCOCC2 | C18H19BrN4O2
